US04452807
2.20 g of (R)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone are hydrogenated in 60 ml of tetrahydrofuran over 1.80 g of 5% palladium/carbon with hydrogen at atmospheric pressure. After removal of the catalyst by filtration, concentration of the filtrate and recrystallization of the residue from ethyl acetate/n-hexane, there is obtained (R)-1-(3-hydroxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone of melting point 129°-131°; [α]D20 =+175°; [α]54620 =+216°; [α]43620 =+451° (chloroform, c=1.0).

reactant | (R)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | 2.20 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C([C@@H](CC2)O)=O)C=CC1OC | C19H19NO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 1.80 g | [Pd] | Pd
product | (R)-1-(3-hydroxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | OC=1C=C(C(=O)N2C([C@@H](CC2)O)=O)C=CC1OC | C12H13NO5
